US08703946B2
Hydrazine hydrate (0.27 mL, 2.76 mmol) was added to a stirred solution of 2,4-dioxo-5-phenoxy-pentanoic acid ethyl ester (0.69 g, 2.76 mmol) in EtOH (3 mL). The mixture was stirred at 80° C. for 16 hours and the solvent was evaporated in vacuo. The crude product was purified by flash column chromatography (silica; AcOEt in DCM 0/100 to 20/80). The desired fractions were collected and the solvents evaporated in vacuo to yield 5-phenoxymethyl-2H-pyrazole-3-carboxylic acid ethyl ester (0.66 g, 98% yield) as a yellow oil.

reactant | Hydrazine hydrate | 2.76 mmol, 0.27 mL | O.NN
reactant | 2,4-dioxo-5-phenoxy-pentanoic acid ethyl ester | 2.76 mmol, 0.69 g | C(C)OC(C(CC(COC1=CC=CC=C1)=O)=O)=O | C13H14O5
solvent | EtOH | 3 mL | CCO | C2H6O
product | 5-phenoxymethyl-2H-pyrazole-3-carboxylic acid ethyl ester | 0.66 g, 98% yield | C(C)OC(=O)C=1NN=C(C1)COC1=CC=CC=C1 | C13H14N2O3
